US05112848
To a solution of diisopropylamine (27.5 mL, 0.20 mol) in 200 mL of THF at 0° C. was added n-butyllithium (78.5 mL, 0.196 mol; 2.5M in hexanes). The solution was stirred 30 min and was cooled to -78° C. A solution of furoic acid (10.0 g, 0.089 mol) in 100 mL of THF was added and the solution stirred 30 min. To this mixture was added N-methoxy- N-methyl-acetamide (13.8 g, 0.134 mol) in 50 mL of THF. The reaction mixture was warmed to room temperature and stirred 1 h. The mixture was quenched with saturated ammonium chloride solution and the aqueous layer was washed with ether (3×50 mL) to remove impurities. The aqueous layer was acidified with 2M HCl and extracted with ethyl acetate (3×100 mL). The combined organic extract was washed with brine, dried over MgSO4, filtered and evaporated to yield 11.1 g (81%) of 2-acetyl-fur-5-yl carboxylic acid.

reactant | diisopropylamine | 0.20 mol, 27.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 0.196 mol, 2.5M, 78.5 mL | C(CCC)[Li]
reactant | furoic acid | 0.089 mol, 10.0 g | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | N-methoxy- N-methyl-acetamide | 0.134 mol, 13.8 g | CON(C(C)=O)C | C4H9NO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-acetyl-fur-5-yl carboxylic acid | 11.1 g, 81% | C(C)(=O)C=1OC(=CC1)C(=O)O | C7H6O4
